US07202364B2
A mixture of 4-aminobenzotrifluoride (100 g, 0.62 mol) and di-tert-butyl carbonate (150 g, 0.69 mol) in anhydrous THF (400 mL) is heated at reflux temperature for 6 hours and then cooled to room temperature. Most of the solvent is removed using a rotary evaporator and the non-volatile material that remains is triturated with water (1000 mL) to form a solid. The solid is isolated by filtration and washed with additional water (500 mL), then washed with hexanes (500 mL) to give 4-(BOC-amino)benzotrifluoride (m.p. 123–124° C.).

reactant | 4-aminobenzotrifluoride | 0.62 mol, 100 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | di-tert-butyl carbonate | 0.69 mol, 150 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-(BOC-amino)benzotrifluoride | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)C(F)(F)F | C12H14F3NO2
